US07393858B2
(4RS)-8-[(2R,3R,4R)-2-[(1R)-1-(3,5-Bis(trifluoromethyl)phenyl)ethoxy]-3-(3,4-difluorophenyl)-tetrahydropyran-4-yl]methyl-2-oxa-8-aza-spiro[4.5]decan-4-ol
A mixture of methanesulfonic acid [(2R,3R,4R)-2-[(1R)-1-(3,5-bis(trifluoromethyl)-phenyl)ethoxy]-3-(3,4-difluorophenyl)-tetrahydropyran-4-yl]methyl ester (Description 16; 0.275 g, 0.49 mmol), 2-oxa-8-aza-spiro[4.5]decan-4-ol hydrochloride (Description 8; 0.1 g, 0.37 mmol), potassium carbonate (237 g, 1.7 mmol) and acetonitrile (3 ml) was stirred at 55° C. overnight and then at 65° C. for 18 hours. The mixture was treated with water and extracted into dichloromethane. The combined organic extracts were dried (Na2SO4) and concentrated. The residue was purified by preparative TLC (dichloromethane:methanol) to give the title compound.

reactant | methanesulfonic acid [(2R,3R,4R)-2-[(1R)-1-(3,5-bis(trifluoromethyl)-phenyl)ethoxy]-3-(3,4-difluorophenyl)-tetrahydropyran-4-yl]methyl ester | 0.49 mmol, 0.275 g | FC(C=1C=C(C=C(C1)C(F)(F)F)[C@@H](C)O[C@H]1OCC[C@H]([C@@H]1C1=CC(=C(C=C1)F)F)COS(=O)(=O)C)(F)F | C23H22F8O5S
reactant | 2-oxa-8-aza-spiro[4.5]decan-4-ol hydrochloride | 0.37 mmol, 0.1 g | Cl.C1OCC(C12CCNCC2)O
reactant | potassium carbonate | 1.7 mmol, 237 g | C([O-])([O-])=O.[K+].[K+]
reactant | acetonitrile | 3 ml | C(C)#N | C2H3N
solvent | water | O | H2O
product | (4RS)-8-[(2R,3R,4R)-2-[(1R)-1-(3,5-Bis(trifluoromethyl)phenyl)ethoxy]-3-(3,4-difluorophenyl)-tetrahydropyran-4-yl]methyl-2-oxa-8-aza-spiro[4.5]decan-4-ol | FC(C=1C=C(C=C(C1)C(F)(F)F)[C@@H](C)O[C@H]1OCC[C@H]([C@@H]1C1=CC(=C(C=C1)F)F)CN1CCC2(C(COC2)O)CC1)(F)F | C30H33F8NO4
